Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfonamides
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization

 
History of Present Illness:
___ y/o female with h/o HTN, DM, recently discharged from ___ 
on ___ for DOE with plans for outpatient work-up, p/w 
intermittent chest pain and shortness of breath for ___ weeks. 
She describes the chest pain as substernal, burning, ___ in 
severity, with radiation to her back. She has noticed the pain 
with less severity over the past few weeks, but yesterday, at 
6pm, noted that it was more severe and came to the ED for 
evaluation. At that time, the pain had come on at rest and was 
relieved with time. The episode lasted <30min, and was also 
associated with diaphoresis. Again, at 6pm while in the ED, she 
had the same chest pain at the same intensity with diaphoresis. 
EKG was done and noted to have no change. She was noted to have 
a temperature of 100.7 at that time and tylenol was given (no 
cultures drawn). Chest pain has not been associated 
N/V/radiation. It is not positional or pleuritic.  
.  
In addition, patient has had SOB for the past ___ weeks. It has 
gotten to the point that she becomes dyspnic after walking from 
one room to another in the house. She notes no reproducible 
chest pain with walking/associated shortness of breath. She 
notes no swelling/pain in ___, and states she takes lasix for BP 
(not fluid overload). She notes no cough, and no palpitations.  
.  
Also of note, patient was admitted at ___ from 
___ w/ rhabdo from gemfibrozil and atovastatin, though 
her baseline creatinine appears to be around 1.1-1.3.  
.  
In the ED, initial vitals were 98.4, 167/43, 58, 12, 100% RA. 
She received ASA upon arrival. She had two sets CE negative. CTA 
negative for PE or dissection. PMIBI showed reversible defects 
in LAD. She was febrile to 100.___nd received 
tylenol for her fever but no cultures. She was hypertensive in 
160's to 170's systolic, but did not receive home BP regimen.  
.  
.  
Her ROS is negative for nausea/vomiting/diarrhea. She denies 
urinary symptoms. No abdominal pain. No HA/blurry vision. 
Otherwise as above.  

 
Past Medical History:
- Diabetes Mellitus Type II c/b retinopathy  
- Hypertension  
- Hyperlipidemia  
- Chronic Renal Insufficiency (baseline 1.1-1.3 in our system, 
reportedly down to 0.8-0.9 after resolution of rhabdo in ___ 
 
- Right sided retinal detachment  
- Rhabdo in ___  

 
Social History:
___
Family History:
Father with "heart problems" 
 
Physical Exam:
VS: 99.3, 190/80, 88, 18, 99% RA  
GENERAL: WDWN female in NAD.  
NECK: Supple with flat JVP  
CARDIAC: regular rate, II/VI SEM  
LUNGS: crackles in b/l bases  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: 2+ DP pulses b/l  

 
Pertinent Results:
Labs on admission:

___ 09:32PM   GLUCOSE-146* UREA N-34* CREAT-1.5* SODIUM-137 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-24 ANION GAP-15
___ 09:32PM   WBC-6.3 RBC-3.86* HGB-10.3* HCT-30.5* MCV-79* 
MCH-26.6* MCHC-33.7 RDW-13.5
___ 09:32PM   NEUTS-67.2 ___ MONOS-3.8 EOS-2.9 
BASOS-1.2
___ 09:32PM   PLT COUNT-227
___ 09:32PM   CK(CPK)-130
___ 09:32PM   cTropnT-0.02*
___ 09:32PM   CK-MB-4
___ 03:00AM   CK(CPK)-108
___ 03:00AM   CK-MB-4 cTropnT-0.01
___ 10:35PM URINE  ___ BACTERIA-FEW YEAST-NONE 
EPI-0
___ 10:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-  
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG

Imaging:
CHEST, PA AND LATERAL: The heart is upper limits of normal in 
size, with a mildly unfolded aorta. The lungs are clear. No 
pleural effusion or pneumothorax is identified.

CTA torso:
IMPRESSION: 
1. No evidence of aortic dissection. 
2. Dependent atelectases in the lung bases. 
3. A 3-mm pulmonary nodule in the right middle lobe. In the 
absence of any risk factors for intrathoracic malignancy, no 
further followup for this is necessary. Otherwise, followup 
chest CT in 12 months. 
4. Small hiatal hernia. 
5. Moderately distended bladder. 
6. Right thyroid nodule. 

P-MIBI:
1. Probable reversible, medium sized, mild perfusion defect 
involving the LAD territory in the setting of breast 
attenuation. 
2. Normal left ventricular cavity size and systolic function. 

C. Cath:
FINAL DIAGNOSIS:     
1. No obstructive coronary artery disease. 
2. Elevated left sided filling pressures. 
3. Severe hypertension. 
4. Normal bilateral renal arteries. 

 
Brief Hospital Course:
___ y/oF with diabetes and HTN presenting with progressive 
dyspnea on exertion and chest pain, as well as reversible 
defects in LAD distribution on P-MIBI.  
.  
# Noncardiac Chest pain: On admission, patient with dyspnea on 
exertion (chronic x weeks) and chest pain, as well as reversible 
lesion in LAD on P-MIBI. Concern for unstable angina in light of 
two episodes pain at rest. She had three sets cardiac enzymes 
negative, and ECG with old LBBB, no ST/T-wave changes. She was 
prehydrated and received mucomyst in light of renal failure, and 
then had cardiac catheterization. Cardiac catheterization was 
normal (see above), and there was no evidence of renal artery 
stenosis. She will continue to be worked up as an outpatient for 
her shortness of breath.
.  
# Acute on Chronic Renal Insufficiency - Creatinines of 0.8 to 
0.9 upon d/c from ___ in ___, but baseline of 1.1-1.3 
in our system. On admission, creatinine of 1.5, likely secondary 
to dehydration. On discharge, creatinine improved to 1.2.  Home 
ACEi, ___, and lasix were continued on discharge.
.  
# Diabetes:  Covered with humalog sliding scale while inpt. Home 
oral hypoglycemics restarted on discharge. 
.  
# Hypertension: Patient with SBP in 190's upon arrival to the 
floors, likely in the setting of not receiving BP meds in ED. 
SBP's improved to 120's-150's during hospitalization with 
resumption of home regimen. Metoprolol and doxazosin were 
switched to single agent carvedilol, and patient tolerated well. 
Unclear why patient on diltiazem instead of amlodipine, and 
reason for both ACEi and ___, in the setting of lisinopril not 
maxed out dose. Could also consider switching from lasix to HCTZ 
as outpatient if no contraindication. Should follow up with PCP 
regarding hypertensive meds, but no other changes other than 
change to carvedilol were made on this discharge.

# Pulmonary nodule: 3mm pulm nodule on CTA. Recommended that in 
the absence of malignancy risk (which she does not appear to 
have), no further imaging needed. Otherwise requires f/u CT in ___ 
year.

 
Medications on Admission:
1. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: Two (2)  

Capsule, Sustained Release PO DAILY (Daily).  
2. Doxazosin 1 mg Tablet Sig: Three (3) Tablet PO BID (2 times a 
 
day).  
3. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  
4. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Irbesartan 150 mg Tablet Sig: One (1) Tablet PO daily ().  
6. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO QAM  
(once a day (in the morning)).  
7. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO QPM  
(once a day (in the evening)).  
8. Januvia 50 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Lisinopril 30 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
Tablet(s)  
11. Glucotrol 10 mg Tablet Sig: One (1) Tablet PO twice a day.  

 
Discharge Medications:
1. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: Two (2) 
Capsule, Sustained Release PO DAILY (Daily).  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Lisinopril 10 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. Carvedilol 25 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
5. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  
6. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Januvia 50 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Glucotrol 10 mg Tablet Sig: One (1) Tablet PO twice a day.  
9. Irbesartan 150 mg Tablet Sig: One (1) Tablet PO daily ().  
10. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Atypical Chest Pain, Hypertension
Secondary: Hyperlipidemia, Type II Diabetes Mellitus

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the hospital with chest pain. You had a 
stress test that was concerning for disease in your coronary 
vessels. You underwent coronary catheterization that showed that 
your heart vessels were patent and thus no intervention was 
needed. Notably, you did have elevated blood pressure requiring 
us to make changes to your medication regimen.

NEW MEDICATIONS:
-Carvedilol 25mg twice a day

STOP MEDICATIONS:
-Doxazosin
-Metoprolol

If you experience any chest pain, shortness of breath, fevers or 
any other concerning symptoms please contact your primary care 
physician or come to the emergency department for evaluation.
 
Followup Instructions:
___